US04078062
2-[[4-[3-(Dimethylamino)propoxy]phenyl]methylene]-2H-1,4-benzothiazin-3(4H)-one, hydrochloride (1:1)
A solution of 6 g. of the above product in 30 ml. of chloroform is treated with one equivalent of hydrochloric acid in ethanol to yield 5.6 g. of yellow solid; m.p. 224°-226°. A solution of this material in 110 ml. of hot methanol is concentrated to approximately half its volume, and then cooled overnight to yield 4.2 g. of yellow crystalline 2-[[4-[3-(dimethylamino)propoxy]phenyl]methylene]-2H-1,4-benzothiazin-3(4H)-one; hydrochloride (1:1); m.p. 224°-226°.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | one equivalent | Cl | ClH
reactant | 2-[[4-[3-(dimethylamino)propoxy]phenyl]methylene]-2H-1,4-benzothiazin-3(4H)-one | CN(CCCOC1=CC=C(C=C1)C=C1SC2=C(NC1=O)C=CC=C2)C | C20H22N2O2S
solvent | ethanol | C(C)O | C2H6O
product | 2-[[4-[3-(Dimethylamino)propoxy]phenyl]methylene]-2H-1,4-benzothiazin-3(4H)-one, hydrochloride | Cl.CN(CCCOC1=CC=C(C=C1)C=C1SC2=C(NC1=O)C=CC=C2)C | InChI=1S/C20H22N2O2S.ClH/c1-22(2)12-5-13-24-16-10-8-15(9-11-16)14-19-20(23)21-17-6-3-4-7-18(17)25-19;/h3-4,6-11,14H,5,12-13H2,1-2H3,(H,21,23);1H
